US08420632B2
63 mg (0.5 mmol) of 1-hydroxybenzotriazole and then 88 mg (0.5 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride are added to a solution of 200 mg (0.4 mmol) of 3-[(4-but-2-ynyloxybenzenesulfonyl)methylamino]-2-(4-methanesulfonylpiperazin-1-yl)propanoic acid in 6 ml of dimethylformamide. The reaction medium is stirred for 10 min at ambient temperature and then 68 mg (0.5 mmol) of O-tert-butyldimethysilylhydroxylamine are added. The reaction medium is then stirred at ambient temperature for 24 h, hydrolyzed by adding 2 ml of a 5% aqueous citric acid solution, and stirred for a further 30 minutes. After extraction with ethyl acetate, the organic phase is washed with water, dried over magnesium sulfate, filtered and concentrated. The crude residue is purified by chromatography on silica gel, elution being carried out with a 95/5 dichloromethane/methanol mixture. 100 mg (50%) of 3-[(4-but-2-ynyloxybenzenesulfonyl)methylamino]-N-hydroxy-2-(4-methanesulfonylpiperazin-1-yl)propionamide are obtained in the form of a white solid with a melting point of 86° C.

reactant | 1-hydroxybenzotriazole | 0.5 mmol, 63 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.5 mmol, 88 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-[(4-but-2-ynyloxybenzenesulfonyl)methylamino]-2-(4-methanesulfonylpiperazin-1-yl)propanoic acid | 0.4 mmol, 200 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)CNCC(C(=O)O)N1CCN(CC1)S(=O)(=O)C | C19H27N3O7S2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-[(4-but-2-ynyloxybenzenesulfonyl)methylamino]-N-hydroxy-2-(4-methanesulfonylpiperazin-1-yl)propionamide | 100 mg, 50% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)CNCC(C(=O)NO)N1CCN(CC1)S(=O)(=O)C | C19H28N4O7S2
